US06015868
Preparation of (2-propylindenyl)(t-butylamino)dimethylsilane
Dimethylsilyl(t-butylamino)chloride (3.03 g, 0.018 moles) was stirred in THF (100 mL) as lithium-2-propylindenide (3.00 g, 0.018 moles) in THF (20 mL) was added dropwise. This mixture was allowed to stir for 16 hours at room temperature. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. Removal of the hexane resulted in the isolation of the desired product as a yellow oil (4.67 g, 89.0 percent). This compound was used without further purification or analysis.

reactant | Dimethylsilyl(t-butylamino)chloride | 0.018 moles, 3.03 g | C[SiH](C)N(C(C)(C)C)Cl | C6H16ClNSi
reactant | lithium 2-propylindenide | 0.018 moles, 3.00 g | [Li].C(CC)C=1[CH-]C2=CC=CC=C2C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-propylindenyl)(t-butylamino)dimethylsilane | 4.67 g, 89.0 percent | C(CC)C=1C(C2=CC=CC=C2C1)[Si](C)(C)NC(C)(C)C | C18H29NSi
